US04046889
By substituting 1-(4-benzoylthio-2-methylbutanoyl)-L-proline for the 1-(4-benzoylthiobutanoyl)-L-proline in the procedure of Example 45, 1-(4-mercapto-2-methylbutanoyl)-L-proline is obtained.

reactant | 1-(4-benzoylthio-2-methylbutanoyl)-L-proline | C(C1=CC=CC=C1)(=O)SCCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C17H21NO4S
reactant | 1-(4-benzoylthiobutanoyl)-L-proline | C(C1=CC=CC=C1)(=O)SCCCC(=O)N1[C@H](C(=O)O)CCC1 | C16H19NO4S
product | 1-(4-mercapto-2-methylbutanoyl)-L-proline | SCCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C10H17NO3S
